US04042650
Using the method of Nylen, Ber., 57B, 1023 (1924), a solution of 21 parts of triethyl carboxyphosphonate in 60 parts of water containing 24 parts of 50% sodium hydroxide was refluxed for 2 hrs. The solution was allowed to cool overnight. Filtration of the reaction mixture gave 4.7 parts of the product, trisodium carboxyphosphonate hexahydrate, mp > 250°; νKBr = 1560, 1530 cm-1.

reactant | triethyl carboxyphosphonate | CCOC(=O)P(=O)(OCC)OCC | C7H15O5P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | trisodium carboxyphosphonate hexahydrate | O.O.O.O.O.O.C(=O)(O)P([O-])([O-])=O.[Na+].[Na+].[Na+] | InChI=1S/CH3O5P.3Na.6H2O/c2-1(3)7(4,5)6;;;;;;;;;/h(H,2,3)(H2,4,5,6);;;;6*1H2/q;3*+1;;;;;;/p-2
